US05712267
7(iv) (2S,4S)-4-Mercapto-2-[2-methyl-4-(4-nitrobenzyloxycarbonyl)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
23 ml of trifluoroacetic acid, followed by 0.57 ml of trifluoromethanesulfonic acid, were added dropwise to a solution of 2.26 g of (2S,4S)-4-(4-methoxybenzylthio)-2-[2-methyl-4-(4-nitrobenzyloxycarbonyl)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine prepared as described in step (iii) above] in 3.48 ml of anisole, and the resulting mixture was worked up and purified by the same procedure as described in Preparation 4(ii), to give 1.88 g of the title compound, as an amorphous solid.

reactant | trifluoroacetic acid | 23 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoromethanesulfonic acid | 0.57 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | (2S,4S)-4-(4-methoxybenzylthio)-2-[2-methyl-4-(4-nitrobenzyloxycarbonyl)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.26 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2C(CN(CC2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C)C=C1 | C34H37N5O10S
solvent | anisole | 3.48 ml | C1(=CC=CC=C1)OC | C7H8O
product | (2S,4S)-4-Mercapto-2-[2-methyl-4-(4-nitrobenzyloxycarbonyl)piperazin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.88 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C(CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C26H29N5O9S
